US07745477B2
To a solution of m-bromophenylcyclopropane (synthesized as described in J. Org. Chem. 1976, 41, 2262-2266) (100 mg, 0.51 mmol) in dry THF (3 ml) at −78° C. was added nBuLi (317 μl, 1.6M solution in hexane, 0.51 mmol) dropwise. The reaction mixture was stirred at −78° C. for 10 min and then a solution of 3-(4-tert-butylbenzyl)-[1,2,3]oxathiazolidine 2,2-dioxide (109 mg, 0.41 mmol) in THF (1 ml) was added dropwise. The reaction mixture was warmed to 0° C. over 3 hours and then quenched with 5 ml 20% (v/v) H2SO4. The reaction mixture was warmed to 60° C. overnight and then cooled to RT and poured into water. The aqueous phase was made basic with 1N NaOH and then extracted with ethyl acetate. The organic layers were combined, washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give a crude residue which was purified by flash column chromatography to give (4-tert-butylbenzyl)-[2-(3-cyclopropylphenyl)-ethyl]-amine (72 mg, 58%) as a colorless oil. MS (ISP) 308.4 (M+H)+.

reactant | m-bromophenylcyclopropane | 0.51 mmol, 100 mg | BrC=1C=C(C=CC1)C1CC1 | C9H9Br
reactant | nBuLi | 0.51 mmol, 1.6M, 317 μl | [Li]CCCC
reactant | 3-(4-tert-butylbenzyl)-[1,2,3]oxathiazolidine 2,2-dioxide | 0.41 mmol, 109 mg | C(C)(C)(C)C1=CC=C(CN2S(OCC2)(=O)=O)C=C1 | C13H19NO3S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (4-tert-butylbenzyl)-[2-(3-cyclopropylphenyl)-ethyl]-amine | 72 mg, 58% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)C2CC2)C=C1 | C22H29N
